US05234924
Using the procedure described in Example 5 but replacing 6-(2-bromoethyl)benzothiazolinone by 7-(2-bromoethyl) 2,3-dihydro 3-oxo 1,4-benzothiazine (obtained using 7-acetyl 2,3-dihydro 3-oxo 1,4-benzothiazine (described in Ann. Chem. Rome, 1955, 45, 172) treated with bromine in methylene chloride to give 7-bromoacetyl 2,3-dihydro 3-oxo 1,4-benzothiazine, then by triethysilane in acidic medium to give 7-(2-bromoethyl)2,3-dihydro 3-oxo 1,4-benzothiazine, the product of the title is obtained.

reactant | 7-(2-bromoethyl) 2,3-dihydro 3-oxo 1,4-benzothiazine | BrCCC1=CC2=C(NC(CS2)=O)C=C1 | C10H10BrNOS
reactant | 7-acetyl 2,3-dihydro 3-oxo 1,4-benzothiazine | C(C)(=O)C1=CC2=C(NC(CS2)=O)C=C1 | C10H9NO2S
reactant | bromine | BrBr | Br2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-bromoacetyl 2,3-dihydro 3-oxo 1,4-benzothiazine | BrCC(=O)C1=CC2=C(NC(CS2)=O)C=C1 | C10H8BrNO2S
